US04438113
Ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate (10.0 g) was added to the 1 N aqueous solution of potassium hydroxide (76.1 ml) at ambient temperature and stirred for 10 minutes. The reaction mixture was adjusted to pH 2.0 with 10% aqueous hydrochloric acid under ice cooling. A solution of 1-tert-butoxycarbonylethoxyamine (8.4 g) in tetrahydrofuran (35 ml) was added to the stirred suspension of the above mixture in pyridine (13.9 ml) at ambient temperature and stirred for 4 hours at same temperature. The resulting mixture was adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate, and washed with ethyl acetate. The separated aqueous layer was adjusted to pH 2.0 with 10% aqueous hydrochloric acid and extracted with ethyl acetate. The extracts were washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was washed with diisopropyl ether and collected by filtration to give 2-(2-formamido-5-chlorothiazol-4-yl)-2-(1-tert-butoxycarbonylethoxyimino)acetic acid (syn isomer) (2.31 g).

reactant | Ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate | 10.0 g | C(=O)NC=1SC(=C(N1)C(C(=O)OCC)=O)Cl | C8H7ClN2O4S
reactant | potassium hydroxide | 76.1 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | 1-tert-butoxycarbonylethoxyamine | 8.4 g | C(C)(C)(C)OC(=O)C(C)ON | C7H15NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | pyridine | 13.9 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-formamido-5-chlorothiazol-4-yl)-2-(1-tert-butoxycarbonylethoxyimino)acetic acid | 2.31 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC(C)C(=O)OC(C)(C)C)Cl | C13H16ClN3O6S
